US04020081
B. Preparation of 2-(2-Hydroxyphenyl)-5-hexylbenzoxazole
A mixture of 22.8 g. (0.102 mole) of 2-nitro-4-hexylphenol and 0.25 g. of 5% palladium on carbon slurried in 150 ml of 95% ethanol was placed in a 250 ml hydrogenation bottle. The bottle was stoppered under an atmosphere of 45 psi of hydrogen and shaken at room temperature. The hydrogen was replenished during reaction. After three hours hydrogen uptake was complete. The mixture then was filtered through a sintered glass funnel and the filtrate was stripped of solvent under reduced pressure. The distillation residue then was added to a three neck flask fitted with a thermometer, mechanical stirrer, and a condenser with a Dean-Stark trap charged with 13.7 g. (0.1 mole) of salicylamide. The mixture was heated with stirring to 200° C and held at 200°-220° C for 4 hours. The reaction mixture then was cooled to room temperature and 150 ml of cyclohexane were added. The resulting mixture was filtered and the cyclohexane was removed from the filtrate by distillation under reduced pressure. The distillation residue weighed 22.4 g. and infrared analysis confirmed the composition as 2-(2-hydroxyphenyl)-5-hexylbenzoxazole.

reactant | 2-nitro-4-hexylphenol | 0.102 mole | [N+](=O)([O-])C1=C(C=CC(=C1)CCCCCC)O | C12H17NO3
reactant | hydrogen | [H][H] | H2
reactant | salicylamide | 0.1 mole | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | cyclohexane | 150 ml | C1CCCCC1 | C6H12
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(2-Hydroxyphenyl)-5-hexylbenzoxazole | OC1=C(C=CC=C1)C=1OC2=C(N1)C=C(C=C2)CCCCCC | C19H21NO2
